datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][S+:10](C(C9=CC=CC=C9)C([H])C(C)[S]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C([H])C(C)[S][C:20]([O]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"[H][NH+:10](C([H])C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C([H])C([H])C(C8=CC=CC=C8)[NH][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S][CH](C)[CH]([H])C(C)[S]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21][H])[S][CH](C)C([H])[CH](C)[S]1 10=20;20,21=21"
"CC[O+:10]([H])[C:20]([NH:21]C)([O]CC)[O]CC.[Cl-]>>[Cl-].CC[O:10][H].C[NH+:21]=[C:20]([O]CC)[O]CC 21=20;20,10=10"
"[H][O+:10](C(CC)C([H])[NH]1)[C:20]1([NH:21]CC)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])[NH][C:20]([NH]CC)=[NH+:21]CC 21=20;20,10=10"
"[O-:10]C(C(C1=C(C=CC=C1)[CH:20](C)=[O:21])O)C>>[O-:21][CH:20]2(C)C3=C(C(C([O:10]2)C)O)C=CC=C3  10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(CC)C(C8=CC=CC=C8)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(CC)C(C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C(CC)[S]1)[C:20]1([O:21][H])[S]CC.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C(CC)[S][C:20]([S]CC)=[O+:21][H] 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7 10=20;20,21=21"
"CCN([C:20]1(OC(C(C([O:21]1)[H])C)[H])[O-:10])C1=CC=CC=C1>>CCN([C:20](=[O:10])OC(C(C([O-:21])[H])C)[H])C1=CC=CC=C1 10=20;20,21=21"
"[H][O:10]C(CC)C([H])C(C)[NH][C:20]([O][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C(C)[NH]1)[C:20]1([NH:21]C)[O][H] 10=20;20,21=21"
"C[NH:10][H].C1CC(=O)N(C1=O)O[C:20](=[O:21])OCC>>C[NH+:10]([C:20]([O-:21])(ON1C(=O)CCC1=O)OCC)[H] 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1CC)([O-:10])[Cl:21])[H])CC>>CCCCCCC1C(C(O[C:20](=[O:10])N1CC)[H])CC.[Cl-:21] 10=20;20,21=21"
"[O:10]([Na])C([H])C(C)C(C)C(C)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(C)C(C)C(C)C([H])[O+:10]1([Na]) 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C([H])[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H][S+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[S][H].[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[S][C:20]([S][H])=[O+:21][H] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CC)CCCCCC)C1=CC=CC=C1)[H]>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CC)CCCCCC)C1=CC=CC=C1)[O-:10])[H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(CC)C(CC)[O]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(CC)C(CC)[O]2.[H][O:10][H] 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O][CH](CC)[CH](C)C([H])[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](CC)C(C)[CH]([H])[O]1 10=20;20,21=21"
"C[N:10](C)[CH:20]([Cl:21])C1=C-C=C-C=C1>>C[N+:10](=[CH:20]C1=C-C=C-C=C1)C.[Cl-:21] 10=20;20,21=21"
"[H][S:10]C(CC)C([H])C(C8=CC=CC=C8)[O][C:20]([S][H])=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(CC)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[S][H] 10=20;20,21=21"
"C9=CC=CC=C9[NH:10][H].[H][NH+:21]=[C:20]([O][H])[O][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21][H])([O][H])[O][H] 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]([NH:21]C)([NH]C8=CC=CC=C8)[O][H].[Cl-]>>[Cl-].[H][NH:10][H].C[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[O][H] 21=20;20,10=10"
"[H][O:10]C(C)C([H])C(CC)[S][C:20]([O][H])=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C(CC)[S]1)[C:20]1([O:21]C)[O][H] 10=20;20,21=21"
"CC1C(C(O[C:20](N1CC)([O-:10])[O:21][H])CCCCCC)C>>CC1C(C(O[C:20](=[O:10])N1CC)CCCCCC)C.[O-:21][H] 10=20;20,21=21"
"CC1C(C(O[C:20](=[O:10])N1C)[H])CCCCCC.[O-:21]CC>>CC1C(C(O[C:20](N1C)([O-:10])[O:21]CC)[H])CCCCCC 21=20;20,10=10"
"CC[O:10][H].[H][O+:21]=[C:20]([O]C8=CC=CC=C8)[S]C.[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([O:21][H])([O]C8=CC=CC=C8)[S]C 10=20;20,21=21"
"C[O:10][H].C[O+:21]=[C:20]([S]C8=CC=CC=C8)[O]C.[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([O:21]C)([S]C8=CC=CC=C8)[O]C 10=20;20,21=21"
"[O-:21][C:20]1([H])C(O)C(C)C(O)C(CC)[NH+:10]1([H])>>[NH:10]([H])C(CC)C(O)C(C)C(O)[C:20]([H])=[O:21] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S][CH](C)[CH](C)C(CC)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21][H])[S][CH](C)C(C)[CH](CC)[O]1 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(CC)[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](CC)C(C)[CH](CC)[NH]1 10=20;20,21=21"
"C[O+:10]([H])[C:20]([NH:21][H])([NH]C8=CC=CC=C8)[NH][H].[Cl-]>>[Cl-].C[O:10][H].[H][NH+:21]=[C:20]([NH]C8=CC=CC=C8)[NH][H] 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([NH:21][H])[O]C([H])C(C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O]C([H])C(C8=CC=CC=C8)[NH]2.C[O:10][H] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S][CH](CC)[CH]([H])C(C8=CC=CC=C8)[S]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21][H])[S][CH](CC)C([H])[CH](C8=CC=CC=C8)[S]1 10=20;20,21=21"
"C[O+:21]=[C:20]2[S][CH](CC)[CH](C)C(C)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21]C)[S][CH](CC)C(C)[CH](C)[O]1 10=20;20,21=21"
